US04941909
A solution of 5 g of isopropyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H) pyrimidinyl]-benzoate in 20 ml of methylene chloride is treated with 25 ml of concentrated sulphuric acid while stirring and cooling at 20°-25° C. The reaction mixture is stirred at room temperature for a further 20 minutes and poured on to 100 g of ice. The organic phase is separated, the aqueous phase is extracted twice with 15 ml of ethyl acetate each time and the combined organic phases are washed to neutrality with water. The solution is subsequently dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The resinous residue is recrystallized from diethyl ether/n-hexane. There is obtained 2-chloro-4-fluoro-5-[2 -methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoic acid, m.p. 205°-210° C.

reactant | isopropyl 2-chloro-4-fluoro-5-[2-methoxy-6-oxo-4-trifluoromethyl-1(6H) pyrimidinyl]-benzoate | 5 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C16H13ClF4N2O4
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-fluoro-5-[2 -methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)OC | C13H7ClF4N2O4
